US09326973B2
A stirred de-gas solution of ethyl 2-(allyloxy)-3,3-difluoro-2-methylpent-4-enoate (165 mg, 0.704 mmol) and Grubbs II (29.9 mg, 0.035 mmol) in DCM (20 mL) was stirred at rt overnight. The reaction mixture was evaporated to dryness and purified by silica gel FCC (2% EtOAc in hexanes) to afford ethyl 3,3-difluoro-2-methyl-3,6-dihydro-2H-pyran-2-carboxylate as a clear oil (˜138 mg, 95%). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 6.26-6.20 (m, J=10.5, 2.4, 2.4 Hz, 1H), 5.96-5.87 (m, 1H), 4.57-4.48 (m, 1H), 4.36-4.26 (m, 3H), 1.60 (s, 3H), 1.33 (t, J=7.2 Hz, 3H).

reactant | ethyl 2-(allyloxy)-3,3-difluoro-2-methylpent-4-enoate | 0.704 mmol, 165 mg | C(C=C)OC(C(=O)OCC)(C(C=C)(F)F)C | C11H16F2O3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Grubbs II | 0.035 mmol, 29.9 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | ethyl 3,3-difluoro-2-methyl-3,6-dihydro-2H-pyran-2-carboxylate | ˜138 mg, 95% | FC1(C(OCC=C1)(C(=O)OCC)C)F | C9H12F2O3
